US08835689B2
a) [4-benzyloxy-4-(3-methoxy-prop-1-ynyl)-1-phenyl-cyclohexyl]-dimethylamine
Methyl propargyl ether (0.36 g, 5.2 mmol) dissolved in abs. THF (5 mL) was added in drops to a 2.5 M solution of butyl lithium in hexane (2.1 mL, 5.2 mmol) at −30° C. in argon. A solution of 4-dimethylamino-4-phenylcyclohexanone (1.08 g, 5.0 mmol) in abs. THF (5 mL) and lithium bromide (0.22 g, 2.5 mmol) dissolved in abs. THF (2.0 mL) was then added at −30° C. The reaction mixture was heated to −5° C., mixed in drops with a solution of benzyl bromide (1.28 g, 7.5 mmol) in abs. DMSO (10 mL) and stirred 2 h at 50° C. For work up of the reaction mixture water (10 mL) was added with ice bath cooling and extracted with cyclohexane (4×20 mL). The organic phase was washed with 20% ammonium chloride solution, dried over Na2SO4 and concentrated to low volume in a vacuum. The remaining residue was purified by flash chromatography with CHCl3/MeOH (40:1).

reactant | Methyl propargyl ether | 5.2 mmol, 0.36 g | C(C#C)OC | C4H6O
reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 5.2 mmol, 2.1 mL | CCCCCC | C6H14
reactant | 4-dimethylamino-4-phenylcyclohexanone | 5.0 mmol, 1.08 g | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | lithium bromide | 2.5 mmol, 0.22 g | [Br-].[Li+]
reactant | benzyl bromide | 7.5 mmol, 1.28 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 10 mL | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [4-benzyloxy-4-(3-methoxy-prop-1-ynyl)-1-phenyl-cyclohexyl]-dimethylamine | C(C1=CC=CC=C1)OC1(CCC(CC1)(C1=CC=CC=C1)N(C)C)C#CCOC | C25H31NO2
